US04416884
5,6-Dichloroquinaldine (5.5 g) was dissolved in 50 ml of acetic acid and 0.1 g of 5% platinum-carbon was added to the solution, which was then subjected to Parr's hydrogenation method to reduce the compound catalytically at a hydrogen gas pressure of 4 kg/cm2. After theoretical amount of hydrogen was absorbed the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. After rendering it alkaline with 50 ml of water and 20% sodium hydroxide, the residue was extracted with 100 ml of chloroform. The extract was dried by the addition of anhydrous potassium carbonate and concentrated to give 4.4 g of 5,6-dichloro-1,2,3,4-tetrahydroquinaldine as oily product.

reactant | 5,6-Dichloroquinaldine | 5.5 g | ClC1=C2C=CC(=NC2=CC=C1Cl)C | C10H7Cl2N
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | platinum carbon | 0.1 g | [Pt].[C]
product | 5,6-dichloro-1,2,3,4-tetrahydroquinaldine | 4.4 g | ClC1=C2CCC(NC2=CC=C1Cl)C | C10H11Cl2N
